US08309580B2
(1) methyl 5-bromo-3-methylfuran-2-carboxylate
To a solution of methyl 3-methylfuran-2-carboxylate (5.6 g) in chloroform (40 mL) was added dropwise bromine (2.3 mL) at 0° C. and, after the completion of the dropwise addition, the mixture was stirred at 0° C. for 30 min, at room temperature for 1 hr, and at 50° C. overnight. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 10% ethyl acetate/hexane), and crystallized from ethyl acetate/hexane to give the title compound (5.3 g, 60%) as a white solid.

reactant | methyl 3-methylfuran-2-carboxylate | 5.6 g | CC1=C(OC=C1)C(=O)OC | C7H8O3
reactant | bromine | 2.3 mL | BrBr | Br2
reactant | water | O | H2O
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-bromo-3-methylfuran-2-carboxylate | 5.3 g, 60% | BrC1=CC(=C(O1)C(=O)OC)C | C7H7BrO3
